US08466176B2
To a cooled (0° C.) stirred solution of N-hydroxy-1-(1-methyl-1H-tetrazol-5-yl)-1-phenylmethanimine (6.47 g, 31.88 mmol, 1.0 eq.) in 250 ml of MeCN, was added dropwise DBN (4.35 g, 35.07 mmol, 1.0 eq.). The reaction was stirred for 5 mins before addition of 2-bromo-6-(bromomethyl)pyridine (8.8 g, 35.07 mmol, 1.1 eq.) portionwise. The mixture was stirred for further 5 mins before removal of the cooling bath and continued at ambient temperature. MeCN was evaporated and the residue was purified by chromatography on silica gel to yield N-[(6-bromopyridin-2-yl)methoxy]-1-(1-methyl-1H-tetrazol-5-yl)-1-phenylmethanimine (9.4 g, 75% yield, 10:1 mixture of stereoisomers) as a pale yellow oil.

reactant | N-hydroxy-1-(1-methyl-1H-tetrazol-5-yl)-1-phenylmethanimine | 31.88 mmol, 6.47 g, 1.0 eq. | ON=C(C1=CC=CC=C1)C1=NN=NN1C | C9H9N5O
reactant | DBN | 35.07 mmol, 4.35 g, 1.0 eq. | C1CC2=NCCCN2C1 | C7H12N2
reactant | 2-bromo-6-(bromomethyl)pyridine | 35.07 mmol, 8.8 g, 1.1 eq. | BrC1=NC(=CC=C1)CBr | C6H5Br2N
solvent | MeCN | 250 ml | CC#N | C2H3N
product | N-[(6-bromopyridin-2-yl)methoxy]-1-(1-methyl-1H-tetrazol-5-yl)-1-phenylmethanimine | 9.4 g, 75% yield | BrC1=CC=CC(=N1)CON=C(C1=CC=CC=C1)C1=NN=NN1C | C15H13BrN6O
